US08227485B2
2-(4-methoxybenzyl)-N,N-bis(3-methylbutyl)-1-(3-piperidin-1-ylpropyl)-1H-benzimidazole-6-carboxamide hydrochloride
4-methoxyphenylacetylchloride (32 mg, 1.1 eq) is added to a solution of 4-amino-N,N-bis(3-methylbutyl)-3-[(3-piperidin-1-ylpropyl)amino]benzamide (66 mg) in acid acetic (2 ml). The mixture is heated at 100° C. for 18 hours then cooled down and concentrated under reduced pressure. A saturated aqueous solution of sodium hydrogen carbonate is added to the residue obtained dissolved in dichloromethane. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 and concentrated under reduced pressure. Purification of the residue obtained by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 9:1) produces the expected compound in the form of the free base. The corresponding hydrochloride salt is formed by the addition of a 1N solution of hydrochloric acid in diethyl ether. The precipitate obtained is filtered and dried in order to produce the expected monohydrochloride compound (51 mg, 59% yield).

reactant | 4-methoxyphenylacetylchloride | 32 mg, 1.1 eq | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | 4-amino-N,N-bis(3-methylbutyl)-3-[(3-piperidin-1-ylpropyl)amino]benzamide | 66 mg | NC1=C(C=C(C(=O)N(CCC(C)C)CCC(C)C)C=C1)NCCCN1CCCCC1 | C25H44N4O
solvent | acetic | 2 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-methoxybenzyl)-N,N-bis(3-methylbutyl)-1-(3-piperidin-1-ylpropyl)-1H-benzimidazole-6-carboxamide hydrochloride | Cl.COC1=CC=C(CC2=NC3=C(N2CCCN2CCCCC2)C=C(C=C3)C(=O)N(CCC(C)C)CCC(C)C)C=C1 | InChI=1S/C34H50N4O2.ClH/c1-26(2)16-22-37(23-17-27(3)4)34(39)29-12-15-31-32(25-29)38(21-9-20-36-18-7-6-8-19-36)33(35-31)24-28-10-13-30(40-5)14-11-28;/h10-15,25-27H,6-9,16-24H2,1-5H3;1H
